US05922751
3-(3-Cyclopentyloxy-4-methoxybenzylamino)-1,2,4-triazole
To a stirred solution of 3-amino-1,2,4-triazole (1.5 g, 0.018 mol), 7.5 ml of 1N HCl, and 50 ml of methanol was added 3-cyclopentyloxy-4-methoxybenzaldehyde (3.3 g, 0.015 mol) and sodium cyanoborohydride (0.945 g, 0.015 mol). A precipitate formed slowly and after 20 hours the precipitate was filtered and recrystallized from methanol (135 ml) to give 1.0 g (0.0034 mol. 23%) of the title compound, mp 203-204° C.

reactant | 3-amino-1,2,4-triazole | 0.018 mol, 1.5 g | NC1=NNC=N1 | C2H4N4
reactant | HCl | 1N, 7.5 ml | Cl | ClH
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 0.015 mol, 3.3 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | sodium cyanoborohydride | 0.015 mol, 0.945 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-(3-Cyclopentyloxy-4-methoxybenzylamino)-1,2,4-triazole | C1(CCCC1)OC=1C=C(CNC2=NNC=N2)C=CC1OC | C15H20N4O2
